US04233452
A mixture of ethyl 4-(1-pyrrolyl)phenylglycolate (0.49 g., 0.002 mole), ethanol (10 ml), dioxane (1.2 ml) and 2 M aqueous KOH (1.5 ml) was stirred at 27° C. for 3 hrs., and then evaporated to dryness. The residue was dissolved in H2O. The solution was acidified with acetic acid and extracted with ethyl acetate (3×15 ml). The combined extracts after washing with H2O and drying (MgSO4), evaporation and recrystallization of the residue from H2O gave 0.19 g (44%) of 4-(1-pyrrolyl)phenylglycolic acid, m.p. 168°-168.5° C.

reactant | ethyl 4-(1-pyrrolyl)phenylglycolate | 0.002 mole, 0.49 g | N1(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C14H15NO3
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | KOH | 2 M, 1.5 ml | [OH-].[K+]
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
product | 4-(1-pyrrolyl)phenylglycolic acid | 0.19 g, 44% | N1(C=CC=C1)C1=CC=C(C=C1)C(C(=O)O)O | C12H11NO3
